US04108862
A. 3-[(4-Chromanylidene)amino]-2-oxazolidinone
A 62 g (0.61 mole) portion of 3-amino-2-oxazolidinone was charged in a 500 ml, 3-necked flask equipped with a thermometer, stirrer and reflux condenser, and treated successively with 92 ml of H2O, 8 ml of 10% HCl and 42 g (0.28 mole) of 4-chromanone in 200 ml of ethanol. The reaction mixture was refluxed for 36 hrs., stripped in vacuo to one-half volume and cooled in the refrigerator overnight. The slurry was filtered and the white crystalline solid washed with 50 ml of isopropanol then 200 ml of ether and dried; m.p. 105°-108°. Yield: 44 g (68%).

reactant | 3-amino-2-oxazolidinone | NN1C(OCC1)=O | C3H6N2O2
reactant | H2O | 92 ml | O | H2O
reactant | HCl | 8 ml | Cl | ClH
reactant | 4-chromanone | 0.28 mole, 42 g | O1CCC(C2=CC=CC=C12)=O | C9H8O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-[(4-Chromanylidene)amino]-2-oxazolidinone | O1CCC(C2=CC=CC=C12)=NN1C(OCC1)=O | C12H12N2O3
